US05602253
(vii) 3-(N-tert-butyloxycarbonylaminoethyl) azetidine
The title compound was prepared from 3-(N-tert-butyloxycarbonylaminoethyl)-1-benzhydryl azetidine according the procedure for 3-(N-tert-butyloxycarbonylaminomethyl) azetidine, in a yield of 1.2 g (70%).

reactant | 3-(N-tert-butyloxycarbonylaminoethyl)-1-benzhydryl azetidine | C(C)(C)(C)OC(=O)NCCC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H30N2O2
reactant | 3-(N-tert-butyloxycarbonylaminomethyl) azetidine | C(C)(C)(C)OC(=O)NCC1CNC1 | C9H18N2O2
product | 3-(N-tert-butyloxycarbonylaminoethyl) azetidine | C(C)(C)(C)OC(=O)NCCC1CNC1 | C10H20N2O2
